US07674912B2
2a: 4-(3,3-Dimethyl-butyrylamino)-3-methoxy-N-thiazol-2-yl-benzamide
To 200 μL of a 0.2 M stock solution of 4-amino-3-methoxy-N-thiazol-2-yl-benzamide in 1,2-dichloroethane/DMF, containing 1.2 mmol pyridine per mmol 4-amino-3-methoxy-N-thiazol-2-yl-benzamide, was added 0.05 mmol of 3,3-dimethyl-butyric acid chloride. The reaction mixture was incubated at ambient temperature for 2 h. Purification was performed by preparative HPLC-MS.

reactant | 4-amino-3-methoxy-N-thiazol-2-yl-benzamide | NC1=C(C=C(C(=O)NC=2SC=CN2)C=C1)OC | C11H11N3O2S
reactant | pyridine | 1.2 mmol | N1=CC=CC=C1 | C5H5N
reactant | 3,3-dimethyl-butyric acid chloride | 0.05 mmol | CC(CC(=O)Cl)(C)C | C6H11ClO
solvent | 1,2-dichloroethane DMF | ClCCCl.CN(C)C=O
product | 4-(3,3-Dimethyl-butyrylamino)-3-methoxy-N-thiazol-2-yl-benzamide | CC(CC(=O)NC1=C(C=C(C(=O)NC=2SC=CN2)C=C1)OC)(C)C | C17H21N3O3S
